US09029536B2
A) Ethyl 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)acrylate
[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl](1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)methanone (1.0 g) was added to a solution of triethyl phosphonoacetate (0.498 mL) and NaH (60% in oil, 0.109 g) in THF (10 mL) at 0° C. The mixture was stirred at room temperature under a dry atmosphere for 1 h. The mixture was poured into water at room temperature and extracted with AcOEt. The organic layer was separated, washed with water and brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/AcOEt) to give the title compound (1.0 g).

reactant | [4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl](1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)methanone | 1.0 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)C | C26H35BN2O4Si
reactant | NaH | 0.109 g | [H-].[Na+]
reactant | water | O | H2O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-3-(1-[{2-(trimethylsilyl)ethoxy}methyl]-1H-benzo[d]imidazol-2-yl)acrylate | 1.0 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C(=CC(=O)OCC)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)C | C30H41BN2O5Si
